US08791132B2
To a solution of 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanamine (500 mg, 1.56 mmol) in DCM (5 mL) was added pyridine (185 mg, 2.3 mmol). After stirring for 5 min at RT, a solution of acetyl chloride (147.2 mg, 1.88 mmol) in DCM (0.5 mL) was added into the reaction mixture, which was stirred at RT for 16 h. The reaction mixture was diluted with DCM and washed with saturated aq NaHCO3 solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was triturated with ether to yield N-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethyl)acetamide (500 mg). 1H NMR (CDCl3, Free base) δ (ppm): 8.42 (d, 2H), 7.25 (s, 1H), 7.15 (d, 1H), 6.92 (d, 2H), 6.9 (d, 1H), 6.2 (d, 1H), 5.3 (q, 1H), 4.4 (dd, 1H), 4.25 (dd, 1H), 3.58 (dd, 2H), 2.6 (m, 2H), 2.55 (s, 3H), 2.43 (s, 3H), 2.3 (m, 2H), 2.03 (s, 3H). Separation by chiral HPLC provided enantiomers II-1a-b.

reactant | 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanamine | 1.56 mmol, 500 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(N)C2=CC=NC=C2)CC1 | C20H24N4
reactant | pyridine | 2.3 mmol, 185 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.88 mmol, 147.2 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethyl)acetamide | 500 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)NC(C)=O)CC1 | C22H26N4O
